Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
cough, dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ year old female with history of COPD (on home O2), HTN, 
Afib admitted with dyspnea and cough.  
 Pt states inc dyspnea since this am, also one episode of 
retrosternal chest pressure lasting 2minuts on way to ED. No cp 
currently. on home O2. no fevers/chills or abd sx.  
 Patient was recently admitted from ___ with COPD flare 
and afib with RVR. She could not receive azithromycin due to 
concern for QTc prolongation and so was treated with 
ceftriaxone/cefpodoxime. She was treated with 60mg PO prednisone 
and discharged with a prednisone taper of 10 mg decrease q3d 
until at 10 mg, then stay at 10 mg until pulm follow up. She was 
also counseled to do pulmonary rehab and follow up with Dr. 
___. She was discharged on 2L supplemental O2 to be worn at 
all times. He theophylline was decreased from 300 mg BID to ___ 
mg BID due to her afib with RVR.  
 She was also seen in the ED on ___ and ___ due to dyspnea 
which was felt to be a continuation of her COPD flare in the 
setting of patient not taking her home medications. She was 
given nebulizers and improved. She was DCed home with ___ for 
assistance with medications. She declined pulmonary rehab 
facility disposition.  

In the ED, initial vitals:  
- Exam notable for: diffuse insp/esp wheezing, dry oropharynx  
- Labs notable for: nl WBC. Trop X1 neg. EKG in sinus.
- Imaging notable for: CXR no acute process. 
- Pt given: duoneb X 3. methylpred 125mg. Aspirin 325mg, 1L NS, 
and azithromycin 500mg. Peak flow 150, baseline per pt. Symptoms 
overall improved after nebs. 
- Vitals prior to transfer: 98.2 76 138/72 20 97NC.  

On arrival to the floor, pt reports feeling much improved and 
minimal wheezing.

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
ASTHMA/COPD  
 ATYPICAL CHEST PAIN  
 CERVICAL RADICULITIS  
 CERVICAL SPONDYLOSIS  
 CORONARY ARTERY DISEASE  
 HEADACHE  
 HIP REPLACEMENT  
 HYPERLIPIDEMIA  
 HYPERTENSION  
 OSTEOARTHRITIS  
 HERPES ZOSTER  
 ATRIAL FIBRILLATION  
 ANXIETY  
 GASTROINTESTINAL BLEEDING  
 OSTEOARTHRITIS  
 ATHEROSCLEROTIC CARDIOVASCULAR DISEASE  
 PERIPHERAL VASCULAR DISEASE
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 
 
Physical ___:
Admission

Vitals: 99 142/80 77 20 95/2L 
General: Alert, oriented, no acute distress, appears very calm 
and can talk in full sentences 
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: scattered wheezing  
CV: II/VI RUSB systolic murmur, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ 
edema b/l
Neuro: CN2-12 intact, no focal deficits 

Vitals: 98.5 122/69(130-150) 76(70s) 18 100/2L 
General: Alert, oriented, no acute distress, appears very calm 
and can talk in full sentences 
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: scattered wheezing  
CV: II/VI RUSB systolic murmur, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ 
edema b/l
Neuro: CN2-12 intact, no focal deficits
 
Pertinent Results:
Admission

___ 01:46PM BLOOD WBC-8.3 RBC-4.52 Hgb-10.8* Hct-36.2 
MCV-80* MCH-23.9* MCHC-29.8* RDW-21.6* RDWSD-52.4* Plt ___
___ 01:46PM BLOOD Neuts-93.4* Lymphs-4.0* Monos-1.8* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-7.77* AbsLymp-0.33* 
AbsMono-0.15* AbsEos-0.01* AbsBaso-0.01
___ 01:46PM BLOOD ___ PTT-31.9 ___
___ 01:46PM BLOOD Glucose-121* UreaN-19 Creat-1.1 Na-134 
K-3.7 Cl-91* HCO3-31 AnGap-16
___ 01:46PM BLOOD cTropnT-<0.01
___ 01:46PM BLOOD Calcium-10.1 Phos-2.7 Mg-2.1
___ 01:58PM BLOOD Lactate-1.6

DISCHARGE

___ 05:52AM BLOOD WBC-14.1*# RBC-3.81* Hgb-9.4* Hct-30.8* 
MCV-81* MCH-24.7* MCHC-30.5* RDW-22.5* RDWSD-58.1* Plt ___
___ 05:52AM BLOOD Glucose-107* UreaN-26* Creat-0.9 Na-136 
K-3.5 Cl-94* HCO3-35* AnGap-11

CXR ___

IMPRESSION:  
  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ year old female with history of COPD (on home O2), HTN, Afib 
admitted with dyspnea and cough.  

#  COPD exacerbation: Presenting with cough, significant 
wheezing and poor air movement initially consistent with COPD 
exacerbation. No PNA on CXR. No ischemic EKG changes. Symptoms 
improved with duonebs, prednisone and doxycycline. Evaluated by 
___ and discharged to rehab facility for physical strengthening 
and respiratory rehab. Discharged on home COPD meds and steroid 
taper and abx course.

# pAfib: currently rate well controlled. on apixaban

- continued diltiazam
- continued apixaban
- continued amiodarone

# Anemia: Fe def anemia on recent admission, discharged on Fe, 
continued iron supplement

# CAD: continue aspirin, atorvastatin
# Constipation: continue home bowel reg
# Anxiety: continued home meds

TRANSITIONAL 

- Discharged on steroid taper with maintenance dose of 10mg 
daily until she sees PCP
* Take ___-

- Doxycycline 100mg BID to ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amiodarone 200 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB 
5. Artificial Tears ___ DROP BOTH EYES PRN irritation 
6. Aspirin 81 mg PO DAILY 
7. Atorvastatin 10 mg PO QPM 
8. Diltiazem Extended-Release 180 mg PO BID 
9. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
10. Fluticasone Propionate NASAL 1 SPRY NU BID 
11. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
12. Hydrochlorothiazide 50 mg PO DAILY 
13. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
14. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
15. Lorazepam 0.5 mg PO QHS:PRN insomnia 
16. Multivitamins W/minerals 1 TAB PO DAILY 
17. Ranitidine 300 mg PO DAILY 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Theophylline SR 200 mg PO BID 
20. Ferrous Sulfate 325 mg PO DAILY 
21. Docusate Sodium 100 mg PO BID 
22. Polyethylene Glycol 17 g PO DAILY 
23. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
24. PredniSONE 30 mg PO DAILY 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 2 tapered doses
25. PredniSONE 20 mg PO DAILY 
Start: After 30 mg DAILY tapered dose 
This is dose # 2 of 2 tapered doses
26. PredniSONE 10 mg PO DAILY 
Start: After last tapered dose completes 
This is the maintenance dose to follow the last tapered dose

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amiodarone 200 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Artificial Tears ___ DROP BOTH EYES PRN irritation 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 10 mg PO QPM 
7. Diltiazem Extended-Release 180 mg PO BID 
8. Docusate Sodium 100 mg PO BID 
9. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Fluticasone Propionate NASAL 1 SPRY NU BID 
12. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
13. Hydrochlorothiazide 50 mg PO DAILY 
14. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
16. Lorazepam 0.5 mg PO QHS:PRN insomnia 
17. Multivitamins W/minerals 1 TAB PO DAILY 
18. Polyethylene Glycol 17 g PO DAILY 
19. Ranitidine 300 mg PO DAILY 
20. Theophylline SR 200 mg PO BID 
21. Tiotropium Bromide 1 CAP IH DAILY 
22. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
23. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
24. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB 
25. Doxycycline Hyclate 100 mg PO Q12H Duration: 2 Days 
to end ___ 
26. PredniSONE 10 mg PO ASDIR 
Take ___- 
Tapered dose - DOWN 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary

COPD exacerbation

Secondary

 CORONARY ARTERY DISEASE  
 HYPERLIPIDEMIA  
 HYPERTENSION  
 OSTEOARTHRITIS  
 ATRIAL FIBRILLATION  
 ANXIETY  
 GASTROINTESTINAL BLEEDING  
 OSTEOARTHRITIS  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

    ___ were admitted with exacerbation of your COPD. We gave 
___ some treatments and ___ improved. ___ were evaluated by the 
physical therapy team who recommended a rehab stay for 
strengthening and improve your breathing. Please take your 
medications as prescribed and follow up with your providers.

Sincerely,
___ medical team
 
Followup Instructions:
___